* Schematics Netlist *



R_R8         $N_0002 $N_0001  30k  
R_R3         0 $N_0003  10k  
R_R2         $N_0003 $N_0004  260k  
R_R7         $N_0004 $N_0002  40k  
R_R6         $N_0006 $N_0005  100k  
R_R4         0 $N_0005  10k  
X_U2         $N_0002 $N_0006 12v 0 $N_0001 uA741
V_V2         12v 0 12V
V_V5         -12v 0 -12V
R_R10         12v $N_0009  2.2k  
R_R11         $N_0011 $N_0010  680  
Q_Q2         $N_0010 $N_0009 12v Q2N2907A
D_D3         $N_0011 0 D1N4002 
R_R9         $N_0001 $N_0009  10k  
R_R5         $N_0005 12v  26.35k  
V_V18         Vout 0 280mV
X_U1         Vout $N_0003 12v 0 $N_0004 uA741
