* Schematics Netlist *



V_V1         12V 0 12V
V_V2         -12V 0 -12V
V_V3         6V 0 6V
R_R5         $N_0001 6V  100  
R_R4         0 $N_0001  100  
R_R2         $N_0002 6V  100  
R_R6         $N_0004 $N_0003  10k  
X_U1         $N_0001 $N_0004 12V -12V $N_0003 uA741
X_U2         $N_0002 $N_0007 12V -12V $N_0008 uA741
R_R8         $N_0008 $N_0007  10k  
R_R7         $N_0007 $N_0004  1.7550k  
R_R9         $N_0003 $N_0011  10k  
R_R10         $N_0011 $N_0012  10k  
R_R11         0 $N_0013  10k  
X_U3         $N_0013 $N_0011 12V -12V $N_0012 uA741
R_R12         $N_0008 $N_0013  10k  
R_R13         $N_0017 $N_0016  820  
R_R14         $N_0016 $N_0018  820  
R_R16         $N_0020 $N_0019  1k  
D_D1         $N_0019 0 Dbreak 
D_D2         $N_0021 0 Dbreak 
D_D3         $N_0022 0 Dbreak 
D_D4         $N_0023 0 Dbreak 
R_R17         $N_0024 $N_0023  1k  
R_R18         $N_0025 $N_0021  1k  
R_R19         $N_0026 $N_0022  1k  
R_R21         $N_0018 6V  270  
V_V4         Vin 0 6.002V
R_R23         $N_0028 $N_0027  820  
R_R24         $N_0027 $N_0029  820  
R_R25         $N_0031 $N_0030  1k  
R_R26         $N_0033 $N_0032  1k  
R_R27         $N_0035 $N_0034  1k  
R_R28         $N_0037 $N_0036  1k  
X_U8A         $N_0038 $N_0029 6V 0 $N_0035 LM324
X_U9A         $N_0038 $N_0028 6V 0 $N_0031 LM324
X_U10A         $N_0038 $N_0027 6V 0 $N_0033 LM324
V_V5         Vin 0 6.002V
R_R30         $N_0028 0  2.7k  
D_D5         $N_0036 0 Dbreak 
D_D6         $N_0030 0 Dbreak 
D_D7         $N_0032 0 Dbreak 
D_D8         $N_0034 0 Dbreak 
R_R22         $N_0029 6V  820  
X_U11A         $N_0038 6V 6V 0 $N_0037 LM324
R_R15         6V $N_0017  820  
X_U5A         $N_0012 $N_0018 6V 0 $N_0020 LM324
X_U4A         $N_0012 $N_0016 6V 0 $N_0024 LM324
X_U7A         $N_0012 $N_0017 6V 0 $N_0026 LM324
X_U6A         $N_0012 6V 12V 0 $N_0025 LM324
R_R3         0 $N_0002  138.5  
