* Schematics Netlist *



V_V1         $N_0001 0  
+SIN 0 220 50 0 0 0
E_U1         $N_0004 0 VALUE {LIMIT(V($N_0002,$N_0003)*1E6,-15V,+15V)}
R_R10         0 $N_0005  10k  
C_C3         0 $N_0005  1u  
D_D16         0 $N_0006 D1N4002 
D_D18         0 0 D1N4002 
D_D17         $N_0006 $N_0005 D1N4002 
D_D19         0 $N_0005 D1N4002 
R_R7         $N_0005 $N_0002  1k  
Q_Q3         $N_0005 $N_0004 $N_0005 Q2N3904
K_TX1         L1_TX1 L2_TX1 1.0
L1_TX1         $N_0007 0 360m
L2_TX1        $N_0006 0 10m
C_C1         0 $N_0005  3000u  
R_R12         $N_0001 $N_0007  0.5  
R_R8         0 $N_0003  5k  
R_R6         $N_0003 $N_0005  30k  
D_D28         0 $N_0002 Dbreak 
